US05247085
9-[2-(Diethoxyphosphorylmethoxy)ethoxy]adenine
A solution of 6-chloro-9-[2-(diethoxyphosphorylmethoxy)ethoxy]purine (1.45 g, 4 mmol) in ethanol (20 ml) saturated with ammonia gas was heated in a sealed steel vessel at 100° C. for 2 hours. The reaction mixture was cooled to ambient temperature, evaporated to dryness and the residual oil chromatographed on silica gel (eluted with dichloromethane: methanol, 90:10) to give recovered starting material (0.25 g) and the title compound (0.94 g, 82%--based on used starting material), crystallised from acetone-ether, m.p. 74°-76°. UV: λmax (EtOH) 260 nm (ε 13,500); IR: νmax (KBr) 3308, 3146, 1669, 1646, 1600, 1538, 1466, 1416, 1320, 1301, 1232, 1206, 1164, 1129. 1066, 1053, 1039, 1009, 978 cm-1 ; 1H NMR: δH [(CD3)2SO]1.24 (6H,t,J=7 Hz, (OCH2CH3)2), 3.83-3.89 (2H,m,CH2OCH2P), 3.91 (2H,d,J=8 Hz, OCH2P), 4.0-4.15 (4H, dq, J=7 Hz, 7 Hz, (OCH2CH3)2), 4.48-4.51 (2H,m,N-OCH2), 7.37 (2H,br.s,D2O exchangeable NH2), 8.14 (1H,s,H-8), 8.34 (1H,s,H-2). Found: C,41.74; H: 5.49; N: 20.06%; m/z 345.1202. C12H20N5O5P requires: C,41.74; H, 5.83; N, 20.28%; m/z 345.1212.

reactant | 6-chloro-9-[2-(diethoxyphosphorylmethoxy)ethoxy]purine | 4 mmol, 1.45 g | ClC1=C2N=CN(C2=NC=N1)OCCOCP(=O)(OCC)OCC | C12H18ClN4O5P
reactant | ammonia | N | H3N
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 9-[2-(Diethoxyphosphorylmethoxy)ethoxy]adenine | C(C)OP(=O)(OCC)COCCON1C2=NC=NC(=C2N=C1)N | C12H20N5O5P
